US07589123B2
1,5-Bis(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)-2-methyl-pentane-1,3-dione (250 mg, 0.43 mmol) was dissolved in anhydrous THF (8 ml) and stirred at room temperature under a nitrogen atmosphere. Tetrabutylammonium fluoride (0.27 ml, 0.94 mmol) was added and the mixture was stirred for 2 h and monitored by TLC. After this time the solvents were removed under vacuum to leave a residue which was purified on silica gel column using dichloromethane/ethyl acetate (1:0 to 5:1) to give 1,5-bis(4-hydroxy-3-methoxyphenyl)-2-methylpentane-1,3-dione (102 mg, 67%) as a light green oil: LCMS (m/z) 359 (M+H)+, 381 (M+Na)+; 1H NMR (400 MHz, CDCl3) δ 1.40 (3H, d, J=7.2 Hz, CH3), 2.63-2.82 (4H, m, 2×CH2), 3.81 (3H, s, OCH3), 3.94 (3H, s, OCH3), 4.39 (1H, q, J=7.2 Hz, H-2), 5.45 (1H, brs, OH), 6.13 (1H, brs, OH), 6.58-6.60 (2H, m, 2×ArH), 6.76 (1H, d, J=8.4 Hz, ArH), 6.92 (1H, d, J=8.4 Hz, ArH), 7.44-7.48 (2H, m, 2×ArH) ppm; 13C NMR (100 MHz, CDCl3) δ 13.57, 29.34, 42.17, 55.73, 55.97, 56.13, 110.31, 110.97, 113.98, 114.20, 120.77, 124.08, 128.80, 132.57, 143.81, 146.27, 146.80, 150.95, 195.57, 206.67 ppm.

reactant | 1,5-Bis(4-tert-butyldimethylsilyloxy-3-methoxyphenyl)-2-methyl-pentane-1,3-dione | 0.43 mmol, 250 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C(C(C(CCC1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)OC)=O)C)=O)OC | C32H50O6Si2
reactant | Tetrabutylammonium fluoride | 0.94 mmol, 0.27 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 1,5-bis(4-hydroxy-3-methoxyphenyl)-2-methylpentane-1,3-dione | 102 mg, 67% | OC1=C(C=C(C=C1)C(C(C(CCC1=CC(=C(C=C1)O)OC)=O)C)=O)OC | C20H22O6
